US03997536
9.4 G. of p-n-hexylbenzaldehyde in 5 ml. of absolute pyridine are treated with 5.15 g. of malonic acid and 5 drops of piperidine. The mixture is then heated at 100° C. for 11 hours, subsequently poured on to cold aqueous hydrochloric acid and extracted with ether. The p-n-hexylcinnamic acid obtained after recrystallization of the crude product from hexane/ether has a melting point of 107°-109° C.

reactant | p-n-hexylbenzaldehyde | C(CCCCC)C1=CC=C(C=O)C=C1 | C13H18O
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | hydrochloric acid | Cl | ClH
catalyst | piperidine | 5 drops | N1CCCCC1 | C5H11N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-n-hexylcinnamic acid | C(CCCCC)C1=CC=C(C=CC(=O)O)C=C1 | C15H20O2
